Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ether
 
Attending: ___.
 
Chief Complaint:
lethargy, AMS 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o Alzheimer's dementia with sensorium 
disturbances, HTN, atherosclerotic disease, mitral 
regurgitation, and bilateral lower extremity edema (? CHF) who 
presented to the ED from her nursing home with increased 
lethargy x1 day and altered mental status, with baseline AOx3. 
She had reportedly fallen asleep at 930 pm and was more 
difficult to arouse. 
.
In the ED, initial vitals were 98.3  74  135/46  18  95% 
(unclear O2). She had no specific complaints there, no cough, 
fevers, anorexia, recent falls. Her exam in the ED was 
reportedly non focal. 
Her EKG was non-acute, CXR was with low lung volumes, but no 
acute process. UA was negative and UCx pending. 
.
In the ED, there was apparently a prolonged discussion with the 
family about risks and benefits of admissions for unclear 
etiology of non-specific lethargy and she was felt to be 
improved, without signs of infection. The initial plan was to 
observe her overnight with plan for family to pick her up in the 
morning. However while sleeping she was noted to have some 
stridorous, squeaky noises and she desatted to the mid 80's. She 
was apparently uptitrated to a NRB with sats 95% but went down 
to 84% on RA. She was not started on non-invasive ventilation. 
She had an ABG showing a chronic respiratory acidosis: 
7.29/71/123/36.  
.
She is admitted to ___ for further management of NRB 
requirement in the setting of a full code ___ year old. 
.
Of note, pt was last seen by her PCP ___ at which point she 
was without acute complaint other than chronic arthritic pain, 
walking with her walker, fatiguing easily but getting around 
with assistance. Other prior OMR notes indicate treatment with 
Lasix for increasing BLE edema for ? CHF, but no echo reports 
are in our system. 

 
Past Medical History:
- Alzheimer's dementia with delusions and sundowning 
- arteriosclerotic heart disease
- mitral regurgitation
- hypertension
- h/o UTI's with Klebsiella and E.coli
- depression
- lower extremity edema, ? CHF
- diffuse degenerative arthritis of the spine and arthritis of 
the right knee
- S/p radical thyroidectomy for cancer of the thyroid
- S/p left knee replacement
- hearing aide in her left ear
- GERD
- varicose veins with venous stasis
- hypercholesterolemia
- s/p cataract surgery in her left eye. 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam on Admission to ___:

p93  114/49  96% 6L NC --> 94-97% 2L NC --> 94-97% RA --> 
___ stokes breathing with ___ second apneic episodes in 
which she desaturates to the mid 80's, however after taking a 
breath she comes back up to the 90's. This is a cyclic pattern 
witnessed through this morning.
Elderly appearing F in no distress, sleeping peacefully and 
tired-appearing upon arrival to ___ in early am, however 
answers questions appropriately and is conversant. Knows ___ 
___ but think it's ___. 
Mouth extremely dry appearing, but is mouth breathing while 
sleeping
Jugular pulsations noted just below ear
CTAB anteriorly but with mouth breathing noises
RRR with prominent mid-systolic whooshing murmur, loudest at 
BUSB. 
Protuberant, soft, ND abdomen with some reported tenderness in 
LLQ but no grimacing, guarding, or rigidity
BLE pitting edema to mid shin with associated chronic venous 
stasis changes

 
Pertinent Results:
LABS:
___ 11:00PM   WBC-4.5 RBC-3.38* HGB-11.1* HCT-32.8* MCV-97 
MCH-32.7* MCHC-33.7 RDW-13.9
___ 11:00PM   GLUCOSE-176* UREA N-44* CREAT-1.8* SODIUM-137 
POTASSIUM-4.5 CHLORIDE-97 TOTAL CO2-31 ANION GAP-14
___ 11:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 11:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:25AM   TYPE-ART PO2-123* PCO2-71* PH-7.29* TOTAL 
CO2-36* BASE XS-5

CXR ___:
Bilateral low lung volumes with minimal crowding of 
bronchovascular markings, no focal consolidation, effusions, or 
PTX noted. Borderline cardiomegaly. 
 
Brief Hospital Course:
___ with h/o Alzheimer's dementia with sensorium 
disturbances, HTN, atherosclerotic disease, mitral 
regurgitation, and bilateral lower extremity edema who presented 
with lethargy and altered mental status of 1 day duration.
.
1. Hypercarbic respiratory acidosis: Pt observed to have apneic 
spells while sleeping for ___ seconds during which time she 
desaturates. It is possible that she has a component of central 
sleep apnea. This may have been made worse by the recent 
addition of zyprexa to her medication regimen. While being 
monitored in the ICU pt declined a CPAP titration study. She and 
her family would prefer not to have this study as an outpt 
either as they do not feel this is consistent with pt's goals of 
care. We did hold her zyprexa.  Patient was saturating well on 
1L NC when she was called out to the medical floor.  On the 
medical wards she was stable albeit mildly chronically confused. 
It would be advisable to keep her off all psychotropic 
medications unless absolutely needed. She was maintained on the 
Citalopram as discontinuing the med may cause side effects such 
as dizziness which would put her at risk for falls, and it is 
unlikely that it caused her presenting symptoms.
.
2. Lethargy: Pt alert and interactive after discontinuation of 
the Zyprexa. No evidence of infection including unremarkable 
labs, cxr and urine cx.
.
3. LLQ pain: Only complaint on admission LLQ pain. She states 
she's had this pain a long time and it comes and goes away on 
its own. Abdomen was benign and not tender at all to palpation. 
Suspect constipation vs other benign age-related non-specific 
abdominal pain. Labs are unimpressive. Would recommend bowel 
regimen as outpt. No intervention was necessary.
.
4. Chronic renal insufficiency: Her Cr of 1.8 in the ED improved 
to 1.5 with IV hydration. Baseline 1.4-1.7.  
.
5. Polypharmacy - given her age, several medications that were 
felt to be unnecessary were disscontinued. They are: Amlodipine 
(her BP was not abnormally high), Zyprexa, Lasix, Kcl, and 
CIprofloxacin.

Pt was DNR/DNI on this admission

She is alert and oriented to place but not date, though did 
sundown at night. She is hard of hearing. She is easily 
redirectable and has not been agitated while here.
 
Medications on Admission:
AMLODIPINE [NORVASC] - 10 mg Tablet - one Tablet(s) by mouth
daily
CIPROFLOXACIN - 500 mg Tablet - one Tablet(s) by mouth twice a
day
CITALOPRAM - 10 mg Tablet - one Tablet(s) by mouth daily
FOLIC ACID - 1 mg Tablet - one Tablet(s) by mouth daily
FUROSEMIDE - 40 mg Tablet - one Tablet(s) by mouth b.i.d. ( a.c.
breakfast and supper)
LOVASTATIN [MEVACOR] - 20 mg Tablet - one Tablet(s) by mouth
daily
OLANZAPINE [ZYPREXA] - 5 mg Tablet - pne Tablet(s) by mouth 
daily
@hs;
OMEPRAZOLE [PRILOSEC] - 20 mg Capsule, Delayed Release(E.C.) -
one Capsule(s) by mouth daily
POTASSIUM CHLORIDE - 20 mEq Tab Sust.Rel. Particle/Crystal - one
Tab(s) by mouth b.i.d. (a.c. breakfast and supper)
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 + D] -  (OTC) - Dosage
uncertain
MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] -  (OTC) -   
Tablet
- one Tablet(s) by mouth daily
VITAMIN E -  (Prescribed by Other Provider: ___ - 200
unit Capsule - one Capsule(s) by mouth daily
 
Discharge Medications:
CITALOPRAM 10 MG PO DAILY
FOLIC ACID 1MG PO DAILY
LOVASTATIN 20 MG PO DAILY
OMEPRAZOLE 20 MG PO DAILY
CALCIUM = VITAMIN D 500MG/400 UNITS DAILY
MULTIVITAMINS ONE DAILY
VITAMIN E SUPPLEMENTS -ONE PO DAILY
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Chronic respiratory acidosis, likely secondary to chronic sleep 
apnea 
Diffuse weakness secondary to deconditioning 
Chronic confusion - likely Alzheimer's dementia 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Confused - sometimes.

 
Discharge Instructions:
You were admitted to the hospital because your oxygen levels 
were dropping while you were asleep. We think that this is 
likely a chronic problem. You should follow this up with your 
PCP and could benefit from a device at home to treat this or 
some home oxygen. Your PCP can discuss the risks and benefits of 
each of these options with you. Your strength and endurance have 
declined due to the hospitalization, and we believe you would 
benefit from rehabilitation in a skilled nursing facility.
 
Followup Instructions:
___